US07148226B2
Example G(3): 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-4-methoxy-5,6-dihydro-pyran-2-one
To a solution of 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione (60 mg, 0.17 mmol) from Example B(87), dissolved in DMF (1.5 mL), were added DBU (0.028 mL, 0.188 mmol) and iodomethane (0.011 mL, 0.17 mmol). The reaction was stirred at room temperature overnight, and then was quenched with water. The reaction was extracted with EtOAc, and the organic layers were combined. After washing with saturated NaCl, the organic layer was dried over Na2SO4. The solids were removed by filtration, and the liquid was concentrated by rotary evaporation. Purification by preparatory HPLC gave the desired product (8.2 mg, 13% yield).

reactant | 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-dihydro-pyran-2,4-dione | 0.17 mmol, 60 mg | ClC=1C=C(C=CC1OC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C19H23ClO4
reactant | DBU | 0.188 mmol, 0.028 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | iodomethane | 0.17 mmol, 0.011 mL | IC | CH3I
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 6-[2-(3-Chloro-4-methoxy-phenyl)-ethyl]-6-cyclopentyl-4-methoxy-5,6-dihydro-pyran-2-one | 8.2 mg, 13% yield | ClC=1C=C(C=CC1OC)CCC1(CC(=CC(O1)=O)OC)C1CCCC1 | C20H25ClO4
